US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[4-N-(4-methoxybenzyloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester
The title compound (2.86 g, 87%) was synthesized by the reaction of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (1.72 g, 5 mmol) and [4-N-(4-methoxybenzyloxycarbonyl)-cytosin-1-yl]-acetic acid (1.67 g, 5 mmol) as per the procedure of Example 20. 1HNMR (500 MHz; DMSO-d6) δ 10.71 (s, 1H), 8.26 (dd, 1H), 8.16 (dd, 1H), 7.90 (d, 0.6H), 7.82 (d, 0.4H), 7.68˜7.60 (m, 2H), 7.34 (d, 2H), 7.00 (t, 1H), 6.93 (d, 2H), 5.10 (s, 2H), 4.82 (s, 1.2H), 4.61 (s, 0.8H), 4.34 (s, 0.8H), 4.13 (q, 0.8H), 4.05 (s, 1.2H), 4.03 (q, 1.2H), 3.74 (s, 3H), 3.56 (t, 1.2H), 3.40˜3.30 (m, 2H), 3.19 (t, 0.8H), 1.19 (t, 1.2H), 1.12 (t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 5 mmol, 1.72 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [4-N-(4-methoxybenzyloxycarbonyl)-cytosin-1-yl]-acetic acid | 5 mmol, 1.67 g | COC1=CC=C(COC(=O)NC2=NC(N(C=C2)CC(=O)O)=O)C=C1 | C15H15N3O6
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[4-N-(4-methoxybenzyloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester | 2.86 g, 87% | C(C)OC(CN(C(CN1C(=O)N=C(NC(=O)OCC2=CC=C(C=C2)OC)C=C1)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C28H30N6O9S2
